US06797725B2
A reaction mixture of 3-[1-(3,5-dimethyl-1h-pyrrol-2-yl)-meth-(z)-ylidene]-1-(imidazol-1-ylcarbonyl)-1,3-dihydro-indole-2-one (166 mg, 0.5 mmol), L-glyceric acid (432 mg, 1.5 mmol), and TFA (399 mg, 3.5 mmol) in 3 mL of THF was stirred at room temperature for 4 h and concentrated. The residue was purified by silica gel chromatography eluting with ethyl acetate-hexane (1:4) followed by 1% of acetic acid in ethylacetate-hexane (1:1) to afford 15 mg (8%) of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-carboxy-2-hydroxy-ethyl ester as a red solid. MS m/z (relative intensity, %) 371 (100, [M+1]+.).

reactant | 3-[1-(3,5-dimethyl-1h-pyrrol-2-yl)-meth-(z)-ylidene]-1-(imidazol-1-ylcarbonyl)-1,3-dihydro-indole-2-one | 0.5 mmol, 166 mg | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(=O)N1C=NC=C1)=O | C19H16N4O2
reactant | L-glyceric acid | 1.5 mmol, 432 mg | C([C@@H](C(=O)O)O)O | C3H6O4
reactant | TFA | 3.5 mmol, 399 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-carboxy-2-hydroxy-ethyl ester | 15 mg, 8% | C(=O)(O)C(COC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O)O | C19H18N2O6
